US07230001B1
Ethyl 4-(4-acetylaminophenyl)-2-(ethoxycarbonyl)-3-methyl-4-oxobutanoate
24.407 ml. (0.16 mol) of diethyl malonate were added dropwise to a suspension of 7.631 g (0.159 mol) of sodium hydride in 90 ml of anhydrous dimethylformamide under a nitrogen atmosphere, the mixture was heated for 90 minutes to 50° C., then 37.462 g (0.166 mol) of 1-(4-acetylaminophenyl)-2-chloro-1-propanone were added and heating was continued for a further 3 hours to 80° C. After cooling the mixture was stirred into 1 l of ice water, saturated with sodium chloride and extracted exhaustively with ethyl acetate. The combined ethyl acetate extracts were dried over sodium sulphate, filtered over activated charcoal and concentrated by evaporation in vacuo, and the residue was purified by column chromatography on silica gel. After working up in the usual way 45.0 g (80% of theoretical) of a colourless oil were obtained, Rf 0.7 (El: EE). IR (KBr): 1747, 1732, 1676 cm−1 (C═O) MS: M+349

reactant | diethyl malonate | 0.16 mol | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium hydride | 0.159 mol, 7.631 g | [H-].[Na+]
reactant | 1-(4-acetylaminophenyl)-2-chloro-1-propanone | 0.166 mol, 37.462 g | C(C)(=O)NC1=CC=C(C=C1)C(C(C)Cl)=O | C11H12ClNO2
reactant | sodium chloride | [Cl-].[Na+]
reactant | KBr | [K+].[Br-]
solvent | dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
product | Ethyl 4-(4-acetylaminophenyl)-2-(ethoxycarbonyl)-3-methyl-4-oxobutanoate | C(C)(=O)NC1=CC=C(C=C1)C(C(C(C(=O)OCC)C(=O)OCC)C)=O | C18H23NO6
